### ISSUE TITLE
`conv`-mode `congr` tactic fails with "over-applied" functions

### ISSUE THREAD

**Issue by kmill** [leanprover/lean4#2942]
In the following example, `congr` fails on the term `id f a`:
```
example (a b : Nat) (f : Nat → Nat) : id f a = id f b := by
  conv =>
    lhs
    -- | id f a
    congr
    -- 'congr' conv tactic failed, unexpected number of arguments in congruence theorem
```
However, the `congr` tactic is able to apply a congruence lemma in this case:
```
example (a b : Nat) (f : Nat → Nat) : id f a = id f b := by
  congr
  -- ⊢ a = b
```

### Context

[Zulip thread](https://leanprover.zulipchat.com/#narrow/channel/113489-new-members/topic/.E2.9C.94.20conv.2Fenter.20into.20argument.20of.20a.20function.3F/near/402801394)

### Versions

4.3.0-rc2 on Mac OS arm64

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by kmill** [comment]
While #5861 handles over-applied functions, it turns out the Zulip thread motivating this issue isn't fixed. Probably a new issue should be created since it's a different problem -- it seems to be that we need user congr theorems for the conv `congr` tactic.

**Comment by kmill** [comment]
Created #5871
